US08877934B2
Step B: (E)-N-[3-[(2-Methyl-4-pyridyl)amino]propyl]hex-2-enamide
(E)-4-Hex-2-enoic acid (23 mg, 0.2 mmol) and HBTU (76 mg, 0.2 mmol) were dissolved in a 1:1 mixture of anhydrous DMF and anhydrous acetonitrile (2 ml), after 5 minutes triethylamine (82 μl, 0.6 mmol) and N-(2-Methyl-4-pyridyl)propane-1,3-diamine hydrochloride (40 mg, 0.2 mmol) was added. To the mixture basic aluminium oxide was added, stirring was continued for one hour, the mixture was filtered and the filtrate was evaporated to dryness under reduced pressure. The residue was purified by preparative HPLC (gradient of water containing 0.1% NH3 and acetonitrile) to yield 20.2 mg (0.077 mmol, 39%).

reactant | HBTU | 0.2 mmol, 76 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.6 mmol, 82 μl | C(C)N(CC)CC | C6H15N
reactant | N-(2-Methyl-4-pyridyl)propane-1,3-diamine hydrochloride | 0.2 mmol, 40 mg | Cl.CC1=NC=CC(=C1)NCCCN
reactant | aluminium oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | (E)-N-[3-[(2-Methyl-4-pyridyl)amino]propyl]hex-2-enamide | CC1=NC=CC(=C1)NCCCNC(\C=C\CCC)=O | C15H23N3O
